* tonewheel91 -- AO-28 preamplifier tube-model library.
*
* Circuit-true R/C values come from the B3/C3 service manual AO-28 sheet
* (docs/externalDocs/Hammond-Organ-B3-C3-Service-Manual.pdf, p.72). Tube
* *model parameters* are NOT on that sheet -- they are published Koren
* parameter sets, then CALIBRATED so each stage lands on the DC plate/
* screen/cathode voltages the schematic prints (see docs/ao28-netlist.md).
* That is the honest seam: passives are read, tube params are fitted to
* the manual's own operating points.
*
* All triodes use the same overflow-safe softplus Koren form as
* driver/spice/stage1.cir: V(u) = KP*(1/MU + Vgk/sqrt(KVB+Vpk^2)), then
* the Koren cathode current E1 = Vpk/KP * ln(1+exp(V(u))), Ip = 2*E1^EX/KG1.
* The softplus is ln(1+exp(.)) written in its two overflow-safe branches so
* Newton excursions can never produce inf.

*========================= 12AX7 (V4A, V4B) =========================*
* MU=100 EX=1.4 KG1=1060 KP=600 KVB=300 -- the published Koren set.
.subckt t12ax7 p g k
BU  u  0 V = 600*(0.01 + V(g,k)/sqrt(300 + V(p,k)*V(p,k)))
BE  e1 0 V = V(p,k)/600 * (V(u) > 0 ? V(u) + ln(1+exp(-V(u))) : ln(1+exp(V(u))))
RE  e1 0 1G
BGP p  k I = 2*pwr(max(V(e1),0),1.4)/1060
RCP p  k 1G
C1  g  k 2.3p
C2  g  p 2.4p
C3  p  k 0.9p
D3  gd k dgrid
R1  g  gd 2k
.model dgrid D(IS=1n RS=1 CJO=10p)
.ends

*========================= 12BH7 (V3A scanner drv, V3B output) ======*
* MU=16.7 EX=1.3 KG1=983 KP=71.5 KVB=300 (published). Medium-mu, stiff:
* runs the scanner line and the T3 output. 1/MU = 0.0599.
.subckt t12bh7 p g k
BU  u  0 V = 71.5*(0.0599 + V(g,k)/sqrt(300 + V(p,k)*V(p,k)))
BE  e1 0 V = V(p,k)/71.5 * (V(u) > 0 ? V(u) + ln(1+exp(-V(u))) : ln(1+exp(V(u))))
RE  e1 0 1G
BGP p  k I = 2*pwr(max(V(e1),0),1.3)/983
RCP p  k 1G
C1  g  k 3.2p
C2  g  p 3.0p
C3  p  k 1.5p
D3  gd k dgrid
R1  g  gd 2k
.model dgrid D(IS=1n RS=1 CJO=10p)
.ends

*========================= 12AU7 (V7A, V7B percussion) ==============*
* MU=21.5 EX=1.3 KG1=1180 KP=84 KVB=300 (published). 1/MU = 0.0465.
.subckt t12au7 p g k
BU  u  0 V = 84*(0.0465 + V(g,k)/sqrt(300 + V(p,k)*V(p,k)))
BE  e1 0 V = V(p,k)/84 * (V(u) > 0 ? V(u) + ln(1+exp(-V(u))) : ln(1+exp(V(u))))
RE  e1 0 1G
BGP p  k I = 2*pwr(max(V(e1),0),1.3)/1180
RCP p  k 1G
C1  g  k 1.6p
C2  g  p 1.5p
C3  p  k 0.5p
D3  gd k dgrid
R1  g  gd 2k
.model dgrid D(IS=1n RS=1 CJO=10p)
.ends

*========================= 6C4 (V5, V6 percussion) =================*
* 6C4 is a single medium-mu triode ~ half a 12AU7 section.
* MU=17.2 EX=1.3 KG1=1180 KP=84 KVB=300. 1/MU = 0.0581.
.subckt t6c4 p g k
BU  u  0 V = 84*(0.0581 + V(g,k)/sqrt(300 + V(p,k)*V(p,k)))
BE  e1 0 V = V(p,k)/84 * (V(u) > 0 ? V(u) + ln(1+exp(-V(u))) : ln(1+exp(V(u))))
RE  e1 0 1G
BGP p  k I = 2*pwr(max(V(e1),0),1.3)/1180
RCP p  k 1G
C1  g  k 1.8p
C2  g  p 1.3p
C3  p  k 0.5p
D3  gd k dgrid
R1  g  gd 2k
.model dgrid D(IS=1n RS=1 CJO=10p)
.ends

*========================= 6AU6 pentode (V1, V2 main gain) =========*
* No published Koren card is reproduced here; instead a conservation-form
* sharp-cutoff pentode: one space-current law E1^EX/KG1 split between plate
* and screen by a soft knee, so cathode current is exactly Ip+Ig2 (robust,
* no divide-by-Vg2 singularity).
*
* Params [re-fit, warmth re-fit round]: shape-anchored to the GE 6AU6-A
* datasheet (ET-T916A, docs/externalDocs/6AU6A-GE-datasheet.pdf) -- transfer
* families at Ec2=50/75 (p.5, the AO-28's starved screen region), the
* Ib=10uA cutoff specs and the three typical-operation points (p.2), and
* the plate-knee reads at Ec1=0 (p.4) -- with the AO-28 DC box held exact:
*   Vgk -1.68 V, Vg2k 59.4 -> Ip 311.6 uA (130 V across R8 470k from +280),
*                             Ig2 98.4 uA (~219 V across R7 2.2M).
* The GE-average family sits ~+0.41 V hotter than the box implies (bogey
* offset, fitted and absorbed -- Hammond's printed voltages are the anchor,
* the datasheet supplies the SHAPE). Local log-slope at the box is now
* d(ln Ip)/dVgk = 2.78 /V and d(slope)/dVgk = -2.5 /V^2 (GE family reads
* ~2.5 /V and ~-1.5..-2.5 /V^2); the previous hand-fit had 0.72 /V -- it
* held the DC point but was ~3.5x too shallow in exactly the curvature
* that makes the harmonic content. Family fit lands within ~12 % across
* Ec2=50/75, typicals within 11 %, 10uA cutoffs within ~2x.
* MU is the grid->screen amplification (datasheet triode mu 36 -> 38.25
* fitted); KVB=2100 keeps the cutoff tail from over-flattening at high
* Vg2 (Koren drive normalization); KG1 pins the box.
* Plate knee: Ip/Icath = 0.76*tanh(max(Vpk,0)/13) -- 55/83/98 % at
* 8/15/30 V, matching the p.4 Ec1=0 knees (the old (Vpk-8)/55 form held
* 32 % of the current at Vpk=0 and reached 90 % only at ~68 V). max(.,0)
* keeps a hard-bottomed plate from sourcing current. Retained
* simplification: the screen share stays FSC=0.24 below the knee too, so
* a bottomed plate starves the cathode sum instead of redistributing to
* the screen; the box's own share is 98/410 = 0.24 (sheet: 99/311 uA).
* Nodes: p g2 g k
.subckt p6au6 p g2 g k
* screen-referenced Koren drive term (MU=38.25 -> 1/MU=0.02614, KP=239,
* KVB=2100)
BU  u  0 V = 239*(0.02614 + V(g,k)/sqrt(2100 + V(g2,k)*V(g2,k)))
BE  e1 0 V = V(g2,k)/239 * (V(u) > 0 ? V(u) + ln(1+exp(-V(u))) : ln(1+exp(V(u))))
RE  e1 0 1G
* total space current; screen takes a near-constant share FSC=0.24, plate
* takes the rest gated by the tanh knee above. Cathode current = Ip + Ig2
* exactly in the flat region. KG1=406.5 pins Ispace = 410 uA at the box.
BIC ic 0 V = pwr(max(V(e1),0),1.52)/406.5
RIC ic 0 1G
BKN kn 0 V = tanh(max(V(p,k),0)/13)
RKN kn 0 1G
BGP p  k I = V(ic)*0.76*V(kn)
BSC g2 k I = V(ic)*0.24
RCP p  k 1G
RCS g2 k 1G
* inter-electrode / feedthrough caps (6AU6 datasheet order of magnitude)
Cin g  k 5.5p
Cgp g  p 0.0035p
Cout p  k 5.0p
D3  gd k dgrid
R1  g  gd 2k
.model dgrid D(IS=1n RS=1 CJO=8p)
.ends

*========================= 6X4 full-wave rectifier (V8) ============*
* Two indirectly-heated diodes, common cathode. Datasheet-ish forward
* drop via RS; the reservoir/filter caps live in the deck, not here.
.model d6x4 D(IS=2n RS=180 CJO=6p BV=1300)
.subckt r6x4 p1 p2 k
D1 p1 k d6x4
D2 p2 k d6x4
.ends
